data/mechanism_extracts/ACSCatal/10.1021_acscatal.2c05186.json
{"doi": "10.1021_acscatal.2c05186", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Electrocatalytic 1,2-diazidation of alkenes mediated by a second-sphere H-bonding manganese amidoporphyrin complex using NaN3 as the azide source", "mechanism_family": ["mediator_anodic", "electrocatalysis_inner_sphere", "radical_anodic"], "electrochemical_role": "Anodic oxidation of [Mn(L1)N3] (and/or free N3-) generates an azidyl radical and a higher-valent diazidomanganese(IV) species that delivers the second azide; cathode reduces protons to H2", "key_intermediates": [{"name": "[Mn(III)(L1)N3] mono-azide manganese porphyrin complex", "smiles": null, "role": "resting_state"}, {"name": "Anodically generated [Mn(IV)(L1)(N3)2] diazidomanganese(IV)", "smiles": null, "role": "reactive"}, {"name": "Free azidyl radical (N3•)", "smiles": "[N-]=[N+]=[N]", "role": "transient"}, {"name": "Carbon-centered β-azido alkyl radical (II) after N3• addition to alkene", "smiles": null, "role": "transient"}, {"name": "1,2-Diazide product (III)", "smiles": null, "role": "reactive"}], "electron_flow": "[Mn(L1)Cl] undergoes ligand exchange with N3- to form [Mn(III)(L1)N3], which is anodically oxidized (and/or free N3- is oxidized) to release an azidyl radical that adds to the alkene; the resulting C-radical then abstracts a second azide via azidyl transfer from the anodically generated [Mn(IV)(L1)(N3)2] to deliver the 1,2-diazide, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "Tetrabutylammonium azide (TBAN3)", "smiles": "CCCC[N+](CCCC)(CCCC)CCCC.[N-]=[N+]=[N-]", "purpose": "redox_probe", "observation": "Oxidation wave at Ep/2 = +453 mV vs Fc+/0; mixing with [Mn(L1)Cl] gave a new redox peak at E1/2 = +155 mV assigned to [Mn(L1)N3], showing ligand exchange lowers MnIII oxidation potential by >600 mV"}, {"name": "[Mn(L1)Cl] complex", "smiles": null, "purpose": "redox_probe", "observation": "CV shows two overlapping one-electron oxidations above +600 mV; UV-vis titration with NaN3 confirms quantitative formation of [Mn(L1)N3]"}, {"name": "DFT model [Mn(L3)N3] and [Mn(L3)(N3)2]", "smiles": null, "purpose": "other", "observation": "B3LYP-D3(BJ)/def2-SVP calculations identify two N-H···N H-bonds between amide groups and Mn-bound azide (QTAIM BCPs); supports second-sphere stabilization of key intermediates"}, {"name": "Chiral D2-symmetric amidoporphyrin Mn catalysts [Mn(L4)Cl] and [Mn(L5)Cl]", "smiles": null, "purpose": "other", "observation": "[Mn(L5)Cl] gave 13% ee in diazidation of 4-tert-butylstyrene, implying second azidyl transfer occurs from the chiral Mn azide complex rather than via free diffusion"}], "evidence_types_used": ["cyclic_voltammetry", "UV_vis", "DFT", "stoichiometric_intermediate"], "evidence_strength": "medium", "notes": "Authors consider two parallel initiation pathways leading to the same azidyl radical: (i) anodic oxidation of [Mn(L1)N3] to [Mn(L1)(N3)2] followed by homolytic fragmentation, and (ii) direct anodic oxidation of free N3- (both feasible since anode potential reaches +420 mV vs Fc+/0). The second C-N bond is proposed to form by azidyl group transfer from [Mn(IV)(L1)(N3)2] to the transient carbon radical rather than by radical-radical coupling, which is statistically disfavored. Overall cycle formulated as MnIII/MnIV. Second-sphere amide N-H···N3 H-bonds are invoked to stabilize Mn-azide intermediates and may reduce N3 nucleophilicity (no SN2/E2 side products with tosylate substrate 13)."}
